US06004974
9-Cyclopentyl-5,6-dihydro-7-ethyl-3-(3-pyridyl)-9H-pyrazolo[3,4-c]-1,2,4-triazolo[4,3-α]pyridine
1-Cyclopentyl-4,5-dihydro-3-ethyl-7-methylthio-1H-pyrazolo[3,4-c]pyridine (0.036 grams, 0.14 mmoles) and nicotinic acid hydrazide (0.021 grams, 0.15 mmoles) was dissolved in anhydrous pyridine (5 ml) in a flame dried flask. An oven-dried condenser was added, which was septa sealed and had an outlet to a bubbler. A long stainless steel needle was pierced through the septa and condenser center into the magnetically stirred solution. Nitrogen was bubbled through the long needle. The flask was heated to 135° C. for 4 hours. The pyridine was then removed under nitrogen purge. The resulting oil was heated to 150° C. for 4 hours. The flask was cooled to ambient temperature and contained 0.045 grams of the crude title compound as a white solid. The crude product did not contain any impurities measurable by thin layer chromatography. The product can be purified by either column chromatography on a silica gel column using a gradient mixture of ethyl acetate/hexane as eluent or by recrystallization from a mixture of ethyl acetate in hexane. Melting Point 140-5° C. (crude); 1H NMR (300 MHz, CDCl3) δ 1.24 (t, J=7.6 Hz, 3H), 1.72 (m, 2H), 1.94 (m, 2H) 2.16 (m, 4H), 2.66 (q, J=7.6 Hz, 2H), 2.98 (t, J=7.0 Hz, 2H), 4.25 (t, J=7.0 Hz, 2H), 5.60 (quintet, J=7.7 Hz, 1H), 7.48 (dd, J=4.9 and 7.8 Hz, 1H), 8.05 (d, J=8.0 Hz, 1H), 8.75 (dd, J=1.4 and 4.9 Hz, 1H), 8.9 (d, J=1.7 Hz, 1H); Anal. calcd. for C19H22N6 : C, 68.23; H, 6.63; N, 25.13. Found: C, 67.39; H, 6.87; N, 24.00.

reactant | 1-Cyclopentyl-4,5-dihydro-3-ethyl-7-methylthio-1H-pyrazolo[3,4-c]pyridine | 0.14 mmoles, 0.036 grams | C1(CCCC1)N1N=C(C2=C1C(=NCC2)SC)CC | C14H21N3S
reactant | nicotinic acid hydrazide | 0.15 mmoles, 0.021 grams | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 9-Cyclopentyl-5,6-dihydro-7-ethyl-3-(3-pyridyl)-9H-pyrazolo[3,4-c]-1,2,4-triazolo[4,3-α]pyridine | C1(CCCC1)N1N=C(C2=C1C=1N(CC2)C(=NN1)C=1C=NC=CC1)CC | C19H22N6
